US06797844B2
In a 1000-ml three-neck flask equipped with a thermometer, a reflux condenser and a stirrer were placed 13.3 g of o-xylylene glycol, 36.7 g of o-xylylene oxide, 85.1 g of 60% by weight nitric acid, 165.5 g of water, and 199.5 g of acetic acid. The mixture was raised in temperature to 70° C. on an oil bath and was stirred under these conditions for 1 hour. After cooling, the reaction mixture was analyzed by gas chromatography to find that the raw material o-xylylene glycol was completely absent and that phthalaldehyde was formed in a yield of 84%. The obtained reaction mixture was extracted with two portions of toluene, the organic layer was distilled and thereby yielded phthalaldehyde in a yield of 67% on the basis of o-xylylene glycol. Gas chromatographic analysis revealed that phthalaldehyde had a purity of 98.8%. In addition, phthalide was formed in a yield of 11%.

reactant | o-xylylene glycol | 13.3 g | C=1(C(=CC=CC1)CO)CO | C8H10O2
reactant | o-xylylene oxide | 36.7 g | C=12C(=CC=CC1)COC2 | C8H8O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | water | 165.5 g | O | H2O
solvent | acetic acid | 199.5 g | C(C)(=O)O | C2H4O2
product | phthalaldehyde | yield of 84% | C(C=1C(C=O)=CC=CC1)=O | C8H6O2
